US08217064B2
[4-Nitro-3,5-bis-(2,2,2-trifluoro-ethoxy)-phenyl]-acetic acid ethyl ester (10.0 g, 24.7 mmol) was dissolved in EtOH (200 mL) and hydrogenated at 50 psi, 25° C. for 16 h in the presence of Pd—C catalyst (10%, 1 g). The catalyst was filtered off and the solvent evaporated to give a crude brown oil, which was purified by silica gel gradient column chromatography by use of Heptane-EtOAc to give [4-amino-3,5-bis-(2,2,2-trifluoro-ethoxy)-phenyl]-acetic acid ethyl ester as a yellow oil (8.3 g, 90%). 1H NMR (300 MHz, CDCl3/TMS): δ 6.52 (s, 2H), 4.37 (q, J=8.0 Hz, 4H), 4.14 (q, J=7.2 Hz, 2H), 3.90 (br s, 2H), 3.48 (s, 2H), 1.25 (t, J=7.2 Hz, 3H). 13C NMR (75 MHz, CDCl3/TMS): δ 171.4, 145.0, 126.3, 123.2, (q, 1JCF=277.6 Hz), 122.6, 110.0, 109.8 (two signals), 66.8 (q, 2JCF=35.5 Hz), 61.0, 41.0, 14.2.

reactant | [4-Nitro-3,5-bis-(2,2,2-trifluoro-ethoxy)-phenyl]-acetic acid ethyl ester | 24.7 mmol, 10.0 g | C(C)OC(CC1=CC(=C(C(=C1)OCC(F)(F)F)[N+](=O)[O-])OCC(F)(F)F)=O | C14H13F6NO6
solvent | EtOH | 200 mL | CCO | C2H6O
catalyst | Pd—C | 1 g | [Pd] | Pd
product | [4-amino-3,5-bis-(2,2,2-trifluoro-ethoxy)-phenyl]-acetic acid ethyl ester | 8.3 g, 90% | C(C)OC(CC1=CC(=C(C(=C1)OCC(F)(F)F)N)OCC(F)(F)F)=O | C14H15F6NO4
